US04144341
STEP A: 2,6-difluoro-3-nitropyridine
To a stirred solution of 20 g. of 2,6-difluoropyridine in 100 ml. of concentrated sulfuric acid at about 20° C., was added 75 ml. of 90% fuming nitric acid over 20 minutes. The mixture was kept at room temperature overnight, warmed to 35° C. over 15 minutes and held at this temperature for 10 minutes. The solution was cooled and poured into ice. The oil was extracted with 400 ml. of ether and the ether extract was washed with bicarbonate solution until all of the acid was neutralized. The ether was dried, evaporated and the residue was distilled at 0.1 mm. The only fraction came over at 50° C.

reactant | 2,6-difluoropyridine | FC1=NC(=CC=C1)F | C5H3F2N
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | nitric acid | [N+](=O)(O)[O-] | HNO3
product | 2,6-difluoro-3-nitropyridine | FC1=NC(=CC=C1[N+](=O)[O-])F | C5H2F2N2O2
